US07442702B2
3-(3-{[Benzenesulfonyl-(4-pyridin-3-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step B was prepared from 3-{3-[(4-pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A, and benzenesulfonyl chloride following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ8.79 (s, 1H), 8.58 (d, 1H), 7.87 (m, 3H), 7.61 (m, 1H), 7.54 (m, 2H), 7.40 (m, 3H), 7.18 (m, 3H), 7.03 (d, 1H), 6.88 (d, 1H), 6.79 (s, 1H), 4.36 (s, 2H), 4.33 (s, 2H), 3.65 (s, 3H), 2.79 (t, 2H), 2.48 (t, 2H); MS 501 (M+1).

reactant | 3-{3-[(4-pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1C=NC=CC1)=O | C23H24N2O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Benzenesulfonyl-(4-pyridin-3-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1C=NC=CC1)S(=O)(=O)C1=CC=CC=C1)=O | C29H28N2O4S
